US07943652B2
Step a: Preparation of pyrazin-2-yl-propynoic acid ethyl ester
To a dry solution of zinc bromide (6.49 g, 28.8 mmol) in tetrahydrofuran (60 mL) was added triethylamine (16 mL, 115.2 mmol), iodopyrazine (4.95 g, 24 mmol), ethyl proprionate (3.66 mL, 36 mmol) and tetrakis(triphenylphosphine) palladium (832 mg, 0.72 mmol). The reaction mixture was allowed to stir at ambient temperature for 16 h, diluted with diethyl ether, washed with saturated aqueous ammonium chloride and saturated aqueous sodium chloride, dried with anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was purified via silica gel column chromatography (40% ethyl acetate in heptane) to yield the title compound as an orange oil (2.19 g, 52% yield). LCMS (m/z): 176.97 (M+).

reactant | triethylamine | 115.2 mmol, 16 mL | C(C)N(CC)CC | C6H15N
reactant | iodopyrazine | 24 mmol, 4.95 g | IC1=NC=CN=C1 | C4H3IN2
reactant | ethyl proprionate | 36 mmol, 3.66 mL | C(CC)(=O)OCC | C5H10O2
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | zinc bromide | 28.8 mmol, 6.49 g | [Br-].[Zn+2].[Br-]
catalyst | tetrakis(triphenylphosphine) palladium | 0.72 mmol, 832 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | pyrazin-2-yl-propynoic acid ethyl ester | 2.19 g, 52% yield | C(C)OC(C#CC1=NC=CN=C1)=O | C9H8N2O2
